US05852014
eq-Quinolizidin-2-ylmethylamine (D12) was reacted with indole-3-carboxylic acid chloride using the method of Description 1b) to afford N-(eq-quinolizidin-2-ylmethyl) indole-3-carboxamide as a white solid (55%).

reactant | Quinolizidin-2-ylmethylamine | C1C(CCN2CCCCC12)CN | C10H20N2
reactant | indole-3-carboxylic acid chloride | N1C=C(C2=CC=CC=C12)C(=O)Cl | C9H6ClNO
product | indole-3-carboxamide | 55% | N1C=C(C2=CC=CC=C12)C(=O)N | C9H8N2O
